US04751240
Aqueous 1ON-sodium hydroxide solution (0.08 ml.) was added to a solution of p-[(1RS,2RS)-1-(10- mesyloxydecyl)-6-methoxy-1,2,3,4-tetrahydronaphth-2-yl]-N,N-dimethylbenzamide (0.107 g.) and S-n-hexylisothiourea hydrobromide (0.097 g.) in dimethylformamide (5 ml.) and the mixture was stirred at laboratory temperature for 2 hours and then evaporated to dryness. Water (5 ml.) was added to the residue and the mixture was extracted three times with diethyl ether (10 ml. each time). The combined extracts were dried and evaporated to dryness and the residue was purified by chromatography on a silica gel column using initially cyclohexane and then toluene as eluent. The product thus obtained was demethylated with boron tribromide by a similar process to that described in the second paragraph of Example 1, and the product was purified by chromatography on a silica gel column using a 4:4 v/v mixture of toluene and ethyl acetate as eluent. There was thus obtained as an oil p-[(1RS,2RS)-1-(10-hexylthiodecyl)-6-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-N,N-dimethylbenzamide, the structure of which was confirmed by proton magnetic resonance and mass spectroscopy.

reactant | p-[(1RS,2RS)-1-(10- mesyloxydecyl)-6-methoxy-1,2,3,4-tetrahydronaphth-2-yl]-N,N-dimethylbenzamide | 0.107 g | S(=O)(=O)(C)OCCCCCCCCCCC1C(CCC2=CC(=CC=C12)OC)C1=CC=C(C(=O)N(C)C)C=C1 | C31H45NO5S
reactant | S-n-hexylisothiourea hydrobromide | 0.097 g | Br.C(CCCCC)SC(N)=N
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | p-[(1RS,2RS)-1-(10-hexylthiodecyl)-6-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-N,N-dimethylbenzamide | C(CCCCC)SCCCCCCCCCCC1C(CCC2=CC(=CC=C12)O)C1=CC=C(C(=O)N(C)C)C=C1 | C35H53NO2S
